US08258129B2
d) 7-methyl-3a.4,5,6,7.7a-hexahydro-1H-imidazo[4,5-c]pyridine
3.2 g 2-(1-trityl-1H-imidazol-4-yl)-propylamine is suspended in aqueous HCl (1 N). After the addition of 2.9 mL formaldehyde the mixture is heated to 95° C. with stirring. After 5 h it is cooled to RT, suction filtered to remove the precipitate formed and the solvent is eliminated in vacuo. This crude product is used in the following reaction step without further purification.

reactant | 2-(1-trityl-1H-imidazol-4-yl)-propylamine | 3.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C(CN)C | C25H25N3
reactant | formaldehyde | 2.9 mL | C=O | CH2O
solvent | HCl | 1 N | Cl | ClH
product | 7-methyl-3a.4,5,6,7.7a-hexahydro-1H-imidazo[4,5-c]pyridine | CC1C2C(CNC1)N=CN2 | C7H13N3
